US03964896
2-(3-Pyridyl)-5-(2-tolyl)-1,3,4-oxadiazole (20 g, 0.09 mole)
2-[5-(3-Pyridyl)-1,3,4-oxadiazole-2-yl] benzoic acid, M.P. 213°-5° (ethanol) wt., 5g (36%). (Found: C, 62.83, 62.71; H, 3.64, 3.47; N, 16.17, 16.05. C14H9N3O3 requires, C, 62.92; H, 3.39; N, 15.73.)

reactant | 2-[5-(3-Pyridyl)-1,3,4-oxadiazole-2-yl] benzoic acid | N1=CC(=CC=C1)C1=NN=C(O1)C1=C(C(=O)O)C=CC=C1 | C14H9N3O3
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-Pyridyl)-5-(2-tolyl)-1,3,4-oxadiazole | N1=CC(=CC=C1)C=1OC(=NN1)C1=C(C=CC=C1)C | C14H11N3O
